US09315462B2
Step 1: Synthesis of 4-(4-chloro-6-methoxyquinolin-2-yl)benzonitrile
Followed Scheme 2, Step 1 starting from 4-cyanophenylboronic acid and 2,4-dichloro-6-methoxyquinoline, where the solvent used was DMF, and the catalyst used was Pd(PPh3)4. The mixture was heated to 100° C. for 3 h, allowed to cool, and then poured into ice water. The resulting solid was isolated by filtration, washed with water, and dried followed by recrystallization from methanol to give the desired product.

reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 2,4-dichloro-6-methoxyquinoline | ClC1=NC2=CC=C(C=C2C(=C1)Cl)OC | C10H7Cl2NO
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-chloro-6-methoxyquinolin-2-yl)benzonitrile | ClC1=CC(=NC2=CC=C(C=C12)OC)C1=CC=C(C#N)C=C1 | C17H11ClN2O
